US08912329B2
1-Phenylethyl-2-pyrrolidone is prepared from 2-pyrrolidone and 2-bromoethylbenzene in N,N-dimethylformamide in the presence of sodium hydride (M. Matsukawa et al. NeuroToxicology 2004, 25, 293-302).

reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Phenylethyl-2-pyrrolidone | C1(=CC=CC=C1)C(C)N1C(CCC1)=O | C12H15NO
